US05728686
a) 7-Ethoxymethyl-3-methylxanthine
52.5 g (0.28 mol) of p-toluenesulfonyl chloride were initially introduced into 50 ml of dimethylformamide and 22.6 g (0.29 mol) of sodium acetate were introduced with stirring and ice-cooling. The mixture was subsequently stirred for one hour, treated with 39.1 g of formaldehyde diethyl acetal and again subsequently stirred for one hour. 41.5 g of 3-methylxanthine were then introduced and the reaction mixture was heated at 90° C. for 2 hours. After cooling to 10° C., the precipitated product was filtered off with suction, washed with a little dimethylformamide and washed with demineralized water until chloride-free. The crude product obtained was recrystallized from dimethylformamide.

reactant | p-toluenesulfonyl chloride | 0.28 mol, 52.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium acetate | 0.29 mol, 22.6 g | C(C)(=O)[O-].[Na+]
reactant | formaldehyde diethyl acetal | 39.1 g | C(C)OCOCC | C5H12O2
reactant | 3-methylxanthine | 41.5 g | CN1C(NC(C=2NC=NC12)=O)=O | C6H6N4O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 7-Ethoxymethyl-3-methylxanthine | C(C)OCN1C=NC=2N(C(NC(C12)=O)=O)C | C9H12N4O3
